US05117057
Preparation of N'-t-butyl-N-methylphenylphosphinyl-N'-benzoylhydrazine
N'-t-butyl-N-(methylphenyl)phosphinylhydrazine (0.7 g) and triethylamine (3 ml) were stirred in diethyl ether (30 ml) at room temperature. Slowly, dropwise benzoyl chloride (1.2 g) was added to the reaction mixture. After stirring 1 hour at room temperature, the reaction mixture was diluted with hexane and the solid product filtered off. The white solid melted at 175°-178° C.

reactant | N'-t-butyl-N-(methylphenyl)phosphinylhydrazine | 0.7 g | C(C)(C)(C)NNP(=O)C1=C(C=CC=C1)C | C11H19N2OP
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 1.2 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | N'-t-butyl-N-methylphenylphosphinyl-N'-benzoylhydrazine | C(C)(C)(C)N(N(C)P(=O)C1=CC=CC=C1)C(C1=CC=CC=C1)=O | C18H23N2O2P
